Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Major Surgical or Invasive Procedure:
punch biopsy ___ 

attach
 
Pertinent Results:
___ 
WBC-8.6 RBC-4.04 Hgb-10.7* Hct-33.6* MCV-83 MCH-26.5 MCHC-31.8* 
RDW-14.7 RDWSD-44.0 Plt ___

___ 
Neuts-70.1 Lymphs-17.4* Monos-9.5 Eos-2.1 Baso-0.4 Im ___ 
AbsNeut-6.00 AbsLymp-1.49 AbsMono-0.81* AbsEos-0.18 AbsBaso-0.03

___ 
___ PTT-32.1 ___

___ 
D-Dimer-2317*

___ 
Glucose-118* UreaN-14 Creat-0.6 Na-139 K-4.3 Cl-104 HCO3-22 
AnGap-13

___ 
ALT-7 AST-22 LD(LDH)-234 AlkPhos-71 TotBili-0.4

___ 
Calcium-9.2 Phos-3.4 Mg-1.8 UricAcd-5.9*

___ 
TSH-2.6

___ 
Blood-NEG Nitrite-NEG Protein-30* Glucose-NEG Ketone-20* 
Bilirub-NEG Urobiln-NORMAL pH-6.5 Leuks-TR*

___ 
URINE RBC-5* WBC-4 Bacteri-NONE Yeast-NONE Epi-6

CTA 

TECHNIQUE:  Axial multidetector CT images were obtained through 
the thorax 
after the uneventful administration of intravenous contrast.  
Reformatted 
coronal, sagittal, thin slice axial images, and oblique maximal 
intensity 
projection images were submitted to PACS and reviewed. 
  
COMPARISON:  None 
  
FINDINGS:  
  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. The 
thoracic aorta is normal in caliber without evidence of 
dissection or 
intramural hematoma.  The heart, pericardium, and great vessels 
are within 
normal limits. No substantial pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: There are numerous pathologically 
enlarged 
lymph nodes.  In the axillae, the largest node on the right 
measures 2.7 cm in 
short axis (2:29), on the left, 1.5 cm (2:33).  In the 
mediastinum, a 
prevascular node measures up to 1.1 cm short axis (2:46).  A 
subcarinal node 
measures up to 1.0 cm (2:52).  Conglomerate of bilateral 
pathologically 
enlarged hilar nodes measure up to 1.2 cm.  A pericardial node 
measuring 1.1 
cm is also present (2:101). 
  
PLEURAL SPACES: Regions of mild nodular enhancement are 
demonstrated in the 
right anterior pleural, as seen on series 2, image 57 and series 
602, image 
30).  Bilateral pleural effusions, moderate on the right, small 
on the left. 
  
LUNGS/AIRWAYS: Ground-glass and irregular opacities are present 
bilaterally in 
all lobes, greater on the right compared to left. 
There is also bibasilar and lingular atelectasis. 
There are also several subpleural nodules, measuring 1.4 cm in 
the right upper 
lobe (3:133), and 1.7 cm in the left lower lobe (3:141).  
Additional 
subcentimeter ground-glass and solid nodules are present (3:86, 
90, 110, 132). 
There is mild peribronchial thickening with scattered mucous 
plugging. 
Lungs are clear without masses or areas of parenchymal 
opacification.  The 
central airways are patent. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
1.6 cm right 
supraclavicular nodes with associated mass effect in the right 
jugular vein 
(21:8).1 
  
ABDOMEN:  Included portion of the upper abdomen is unremarkable. 

  
BONES: There are nonspecific cortical irregularities of the 
posterior ___ 
through 6th ribs bilaterally.  Otherwise no suspicious osseous 
abnormality.? 
There is no acute fracture. 
  
SOFT TISSUES: A multilobular heterogeneous enhancing mass in the 
right breast 
measures approximately 8.2 x 4.5 cm.  There is associated 
diffuse thickening 
of the overlying skin. 
  
  
IMPRESSION: 
  
  
1. 8 x 4.5 cm enhancing multilobular right breast mass with 
associated skin 
thickening, highly suspicious for primary malignancy. 
2. Pulmonary nodules and extensive supraclavicular, axillary, 
mediastinal, and 
hilar lymphadenopathy, concerning for metastatic disease. 
3. Scattered bilateral ground-glass and irregular opacities, 
concerning for 
multifocal pneumonia, possibly superimposed on metastatic 
disease. 
4. No pulmonary embolism to the subsegmental level. 
5. Bilateral moderate-sized pleural effusions, right greater 
than left. 

 
Brief Hospital Course:
___ yo F with hx of RA here with new right sided breast mass. 

#) Breast mass 

Patient was transferred from ___ for breast surgery and onc 
eval. 
Instead had ___ and IP see her first and patient became very 
apprehensive quickly, denying she had cancer and refusing any 
intervention. 

She ended up having a punch biopsy on ___ which is now pending 
on discharge. 

Patient is mildly hypoxic on RA to low ___ but not dyspneic. She 
was offered thoracentesis but declined because was asymptomatic. 


She has follow up with breast surgery and was seen by onc prior 
to discharge to establish care and follow up. 

There was a question of superimposed infection of the mass. She 
had no fevers or leukocytosis. She was discharged with one week 
of Bactrim. 

Transitional issues
[ ] onc f/u 
[ ] breast surgery f/u already made 
[ ] IP for ___ if dyspneic due to effusion 
[ ] can consider ___ biopsy of contralateral axillary lymph node 
 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*12 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
New breast mass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a new breast mass which is concerning to 
us for a new cancer. You had a biopsy of this and pathology is 
pending and we will contact you with this. 

There is involvement of the lymph nodes in the chest and armpit. 
There are also nodules in the lungs and fluid in the lung 
cavities. 

You will be called with close follow up with oncology and they 
will talk with all the other specialists and decide the next 
best course of action. 
 
Followup Instructions:
___